US09290490B2
To a solution of benzyl {trans-4-[methoxy(methyl)carbamoyl]cyclohexyl}carbamate (3.43 g, 10.71 mmol) in THF (107 mL) at 0° C. was added methylmagnesium bromide (3.0 M in diethyl ether, 5.35 mL, 16.06 mmol) and the reaction was stirred for one hour at 0° C. An additional portion of methylmagnesium bromide (3.0 M in diethyl ether, 5.35 mL, 16.06 mmol) was then added and the reaction was allowed to warm to room temperature and then stirred for one hour. The reaction was slowly quenched with aqueous saturated ammonium chloride. Water and ethyl acetate were added and the organic layer was separated, dried over magnesium sulfate, filtered and concentrated to afford benzyl (trans-4-acetylcyclohexyl)carbamate that was used without further purification.

reactant | benzyl {trans-4-[methoxy(methyl)carbamoyl]cyclohexyl}carbamate | 10.71 mmol, 3.43 g | CON(C(=O)[C@@H]1CC[C@H](CC1)NC(OCC1=CC=CC=C1)=O)C | C17H24N2O4
reactant | methylmagnesium bromide | 16.06 mmol, 3.0 M, 5.35 mL | C[Mg]Br
reactant | methylmagnesium bromide | 16.06 mmol, 3.0 M, 5.35 mL | C[Mg]Br
solvent | THF | 107 mL | C1CCOC1 | C4H8O
product | benzyl (trans-4-acetylcyclohexyl)carbamate | C(C)(=O)[C@@H]1CC[C@H](CC1)NC(OCC1=CC=CC=C1)=O | C16H21NO3
